US03984415
2.8 g of 1-(m-nitrophenyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione was dissolved in 30 ml of dry dimethylformamide. To the solution was added 0.6 g of approximately 50 % sodium hydride and stirring was performed for 30 minutes. To this was added 3.4 g of allyl iodide and the mixture was reacted for 3 hours at room temperature. Then the solvent was evaporated from the mixture under reduced pressure. To the residue obtained was added water to precipitate a crude product. Recrystallization of this product from methanol gave 2.3 g of 1-(m-nitrophenyl)-3-allylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione as pale yellow prisms, melting at 188-189°C.

reactant | 1-(m-nitrophenyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(NC(C2=C1N=CC=C2)=O)=O | C13H8N4O4
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | allyl iodide | 3.4 g | C(C=C)I | C3H5I
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(m-nitrophenyl)-3-allylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 2.3 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=C1N=CC=C2)=O)CC=C)=O | C16H12N4O4
